US05719141
930 mg of 2-carbamoylmethoxy-4-methoxynitrobenzene are hydrogenated in the presence of 300 mg of Raney nickel in 30 ml of methanol at room temperature under normal pressure for 12 h. The reaction mixture is filtered over Hyflo® and concentrated. Recrystallization of the crude product from methanol gives 2-carbamoylmethoxy-4-methoxyaniline of mp 139°-140° C.; Rf (O)=0.25.

reactant | 2-carbamoylmethoxy-4-methoxynitrobenzene | 930 mg | C(N)(=O)COC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C9H10N2O5
catalyst | Raney nickel | 300 mg | [Ni] | Ni
solvent | methanol | 30 ml | CO | CH4O
product | 2-carbamoylmethoxy-4-methoxyaniline | C(N)(=O)COC1=C(N)C=CC(=C1)OC | C9H12N2O3
